### PR TITLE
add `Nat.squarefreePart`

### PR DESCRIPTION
**Pull request by smmercuri**

### CODE REVIEW

File: FormalConjectures/ForMathlib/Data/Nat/Squarefree.lean [hunk 1]
```diff
@@ -0,0 +1,135 @@
...
+    exact Finset.filter_subset _ _
+  · intro i hi
+    rw [Finset.mem_filter] at hi
+    apply (prime_of_mem_primeFactors hi.left).squarefree
+
+
+#check Nat.prod_factorization_eq_prod_primeFactors
+#check Nat.prod_primeFactors_of_squarefree
+
+theorem Nat.prod_primeFactors_eq {n : ℕ} (hn : n ≠ 0) :
```
Comment (smmercuri) [inline FormalConjectures/ForMathlib/Data/Nat/Squarefree.lean]: heads up that this is `Nat.factorization_prod_pow_eq_self`

**Review by Paul-Lez — APPROVED** [review]
